US04085108
3-Methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide
3-Methyl-5,6,7,8-tetrahydroquinoline (7.3 g, 0.05 mol.) was added to a solution of isopropylmagnesium bromide [prepared from isopropylbromide (6.15 g, 0.05 mol), magnesium (1.44 g, 0.06 mol) in ether (10 ml.)] and the solution heated at 60° to remove the ether by distillation. Toluene (5 ml.) was added and the reaction mixture was heated at 120° for 2 hours, cooled, diluted with toluene (30 ml) and this solution was added to a solution of trimethylsilyl isothiocyanate (7.85 g, 0.06 mol) in toluene (50 ml.) at 0° C. The reaction mixture was stirred at room temperature for 12 hours. The solution of 3-methyl-5,6,7,8-tetrahydroquinoline-8-(N-bromomagnesio-N-trimethylsilyl)thiocarboxamide was diluted with water (15 ml.) causing hydrolysis to 3-methyl-5,6,7,8-tetrahydroquinoline-8-(N-trimethylsilyl) thiocarboxamide and subsequent hydrolysis to the title compound and the pH adjusted to 2.0 with Conc. HCl. The aqueous solution was extracted with ether and the extracts discarded. The aqueous solution was adjusted to pH 9.0 with Na2CO3 and extracted with chloroform (3 × 50 ml.). The combined extracts were washed with brine, dried and the solvent removed to give a mixture of 3-methyl-5,6,7,8-tetrahydroquinoline and the title compound (5%) which was isolated by chromatography and identified by comparison with authentic material.

reactant | 3-Methyl-5,6,7,8-tetrahydroquinoline | 0.05 mol, 7.3 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | isopropylmagnesium bromide | 0.05 mol, 10 ml, 6.15 g | C(C)(C)[Mg]Br
reactant | trimethylsilyl isothiocyanate | 0.06 mol, 7.85 g | C[Si](C)(C)N=C=S | C4H9NSSi
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 ml | O | H2O
product | 3-Methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | CC=1C=NC=2C(CCCC2C1)C(N)=S | C11H14N2S
